US05693636
a) 2-chloro-5-nitro-[N-(2-phenylethyl)]-benzylamine
2-Chloro-5-nitro-benzaldehyde (5 g, 27 mmol) and 2-phenylethylamine (4.1 g, 33.75 mmol) were dissolved in methanol, cooled to 0° C., and sodium cyanoborohydride (2.1 g, 33.75 mmol) was added. The reaction was adjusted to pH 6 with acetic acid and warmed to room temperature for 6 h. The reaction mixture was quenched with ice and diluted with water. The pH was adjusted to 11 with sodium hydroxide and the mixture was extracted with methylene chloride. The organic extracts were washed with water and brine and dried briefly over sodium sulfate. Filtration of the mixture and concentration of the filtrate in vacuo yielded the title compound (82%).

reactant | 2-Chloro-5-nitro-benzaldehyde | 27 mmol, 5 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 2-phenylethylamine | 33.75 mmol, 4.1 g | C1(=CC=CC=C1)CCN | C8H11N
reactant | sodium cyanoborohydride | 33.75 mmol, 2.1 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 2-chloro-5-nitro-[N-(2-phenylethyl)]-benzylamine | 82% | ClC1=C(CNCCC2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C15H15ClN2O2
